US06670367B1
Methyl 2-Hydroxy-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-di-(4-ethyl-phenyl)propionate
6 g (19.3 mmol) of methyl 3,3-di(4-ethylphenyl)-2,3-epoxypropionate (crude) and 3.52 g (19.3 mmol) of 2-(3,4-dimethoxyphenyl)ethanol were dissolved in 20 ml of dichloromethane and, at room temperature, 5 drops of boron trifluoride etherate were added. The solution was stirred for 1.5 hours. The solvent was then distilled off, and the residue, a pale yellow oil (8.66 g, 91%), was immediately reacted further.

reactant | methyl 3,3-di(4-ethylphenyl)-2,3-epoxypropionate | 19.3 mmol, 6 g | C(C)C1=CC=C(C=C1)C1(C(C(=O)OC)O1)C1=CC=C(C=C1)CC | C20H22O3
reactant | 2-(3,4-dimethoxyphenyl)ethanol | 19.3 mmol, 3.52 g | COC=1C=C(C=CC1OC)CCO | C10H14O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | boron trifluoride etherate | 5 drops | B(F)(F)F.CCOCC
product | Methyl 2-Hydroxy-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-di-(4-ethyl-phenyl)propionate | OC(C(=O)OC)C(C1=CC=C(C=C1)CC)(C1=CC=C(C=C1)CC)OCCC1=CC(=C(C=C1)OC)OC | C30H36O6
